US06821967B2
c. 9-{4-[4-(1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
A mixture of 0.05 g (0.328 mmol) of 2-chloro-1H-benzimidazole and 0.21 g (0.487 mmol) of 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide is heated to 150° C. for two hours. After cooling, the reaction mixture is dissolved in dichloromethane/ethanol. The product is purified by column chromatography on silica gel (eluant: dichloromethane/ethanol=20:1).

reactant | 2-chloro-1H-benzimidazole | 0.328 mmol, 0.05 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | 0.487 mmol, 0.21 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCNCC1)(F)F | C24H28F3N3O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 9-{4-[4-(1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=C(N1)C=CC=C2)(F)F | C31H32F3N5O
